US07087601B2
A solution of [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile (98 mg, 0.36 mmol) and dry THF (5 mL) was cooled to −78° C. A solution of tert-butyllithium (500 μL, 0.80 mmol, 1.7M solution in pentane) was added dropwise via syringe at −78° C. After 1 h, a solution of N-fluorobenzenesulfonimide (113 mg, 0.36 mmol) and dry THF (1.5 mL) was added dropwise via syringe at −78° C. The cooling bath was removed, and the reaction mixture was gradually allowed to warm to rt, and was maintained at rt for 8 h. The reaction was quenched with silica gel (300 mg) and concentrated to dryness. The residue was purified by flash chromatography on silica gel (EtOAc:hexanes, 1:3) to afford the desired [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl](fluoro)acetonitrile as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.32 (s, 1H), 8.24 (2, 1H), 7.74–7.84 (m, 2H), 7.56–7.60 (m 1H), 7.35–7.43 (m, 2H), 6.45 (d, 1H). MS (ESI) 287 (M+H)+.

reactant | [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile | 0.36 mmol, 98 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)Cl | C15H9ClN2O
reactant | tert-butyllithium | 0.80 mmol, 1.7M, 500 μL | C(C)(C)(C)[Li]
reactant | N-fluorobenzenesulfonimide | 0.36 mmol, 113 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl](fluoro)acetonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C(C#N)F)Cl | C15H8ClFN2O
